US07205302B2
3-(methoxymethoxy)-N-methylbenzylamine
5% platinum-carbon was suspended in 10 ml of methanol and a solution of 3.00 g of 3-(methoxymethoxy)benzaldehyde in 10 ml of methanol and 2.1 ml of 40% methylamine (methanol solution) were added. After heating to 30° C. under 2 atm, hydrogen was added for 22 hours. A catalyst was removed by filtering the reaction solution and the filtrate was concentrated. The residue was purified by silica gel column chromatography to obtain 2.51 g of the desired compound as a yellowish oily substance.

reactant | 3-(methoxymethoxy)benzaldehyde | 3.00 g | COCOC=1C=C(C=O)C=CC1 | C9H10O3
reactant | hydrogen | [H][H] | H2
reactant | methylamine | 2.1 ml | CN | CH5N
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | platinum carbon | [Pt].[C]
product | 3-(methoxymethoxy)-N-methylbenzylamine | 2.51 g | COCOC=1C=C(CNC)C=CC1 | C10H15NO2
